US06087380
1-Methyl-2-[N-[4-(N-nicotinoylamidino)phenyl]aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-methoxycarbonylethyl)-amide
Prepared analogously to Example 90 from 1-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-methoxycarbonylethyl)-amide-hydrochloride and nicotinic acid chloride. Yield: 40% of theory, C32H30N8O4 (590.7) Rf value: 0.47 (silica gel; dichloromethane/methanol=9:1) ##EQU81##

reactant | 1-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-methoxycarbonylethyl)-amide-hydrochloride | Cl.N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OC
reactant | nicotinic acid chloride | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
solvent | dichloromethane methanol | ClCCl.CO
product | 1-Methyl-2-[N-[4-(N-nicotinoylamidino)phenyl]aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-methoxycarbonylethyl)-amide | Yield: 40% | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(NC(C2=CN=CC=C2)=O)=N)C)C=C1)CCC(=O)OC | C32H30N8O4
